US07517910B2
[3-(1-benzothiophene-5-yl)phenyl]methanol
3-(1-Benzothiophene-5-yl)benzaldehyde (3.9 g, 16.4 mmol) was dissolved in a mixed solution of ethanol (80 mL) and tetrahydrofuran (20 mL), and the mixture was ice-cooled. Sodium borohydride (0.62 g, 16.4 mmol) was added to the solution. After stirring under ice-cooling for 3 hr, aqueous citric acid solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained oil was crystallized from ethyl acetate-hexane to give the title compound (3.9 g, yield 99%) as colorless prism crystals.

reactant | 3-(1-Benzothiophene-5-yl)benzaldehyde | 16.4 mmol, 3.9 g | S1C=CC2=C1C=CC(=C2)C=2C=C(C=O)C=CC2 | C15H10OS
reactant | Sodium borohydride | 16.4 mmol, 0.62 g | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [3-(1-benzothiophene-5-yl)phenyl]methanol | 3.9 g, yield 99% | S1C=CC2=C1C=CC(=C2)C=2C=C(C=CC2)CO | C15H12OS
